US08076486B2
{5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-acetic acid
To a solution of {5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-acetic acid methyl ester (262 mg, 0.56 mmol, 1 eq) in THF-H2O (1:1) (2 mL) LiOH (27 mg, 1.12 mmol, 2 eq) was added. The reaction mixture was stirred at RT for 2 hrs. The solvent was removed partially and more water was added. The mixture was washed with ether and the pH of the aqueous layer was adjusted to 3 with 1N HCl. A solid precipitated and filtered to afford the desired product (190 mg). LC/MS (Method A) [4.83 min; 456(M+1)]

reactant | {5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-acetic acid methyl ester | 0.56 mmol, 262 mg, 1 eq | COC(CNC=1OC(=NN1)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F)=O | C16H13FIN5O3
reactant | LiOH | 1.12 mmol, 27 mg, 2 eq | [Li+].[OH-]
solvent | THF H2O | 2 mL | C1CCOC1.O
product | {5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-acetic acid | 190 mg | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C1=NN=C(O1)NCC(=O)O | C15H11FIN5O3
